US09340556B2
To a solution of ethyl 3-(dimethylamino)-2-(2,4,5-trifluorobenzoyl)acrylate (64 g, 212 mmol) in a mixed solvent of Ethanol (150 mL)/Diethyl ether (300 mL) was added tert-Butylamine (44.6 mL, 425 mmol), and the reaction mixture was stirred at rt for 2 h. The mixture was concentrated under reduced pressure, the resulting oily residue was dissolved in N,N-Dimethylformamide (DMF) (250 mL) and potassium carbonate (88 g, 637 mmol) was added. LCMS showed completion of the reaction after being stirred at 100° C. for 2 h. Cold water was added to the mixture, and the precipitates were collected by filtration and dried to afford ethyl 1-(tert-butyl)-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate (60 g, 194 mmol, 91% yield) as pale yellow solid. LCMS: (M+H)+: 310.1

reactant | ethyl 3-(dimethylamino)-2-(2,4,5-trifluorobenzoyl)acrylate | 212 mmol, 64 g | CN(C=C(C(=O)OCC)C(C1=C(C=C(C(=C1)F)F)F)=O)C | C14H14F3NO3
reactant | Ethanol | 150 mL | C(C)O | C2H6O
reactant | tert-Butylamine | 425 mmol, 44.6 mL | C(C)(C)(C)N | C4H11N
reactant | potassium carbonate | 637 mmol, 88 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
solvent | Diethyl ether | 300 mL | C(C)OCC | C4H10O
product | ethyl 1-(tert-butyl)-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 194 mmol, 60 g, 91% yield | C(C)(C)(C)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)OCC | C16H17F2NO3
